US06106675
Perhydrophenanthrene.
--0.63 g of substrate and 0.1 g charcoal was irradiated for 25 minutes. The reaction gave gases (20.6%) and liquids (11.3%). The products included benzene, toluene, ethylbenzene, styrene, 2-propenylbenzene, cyclohexene, and vinylcyclohexene.

reactant | ethylbenzene | C(C)C1=CC=CC=C1 | C8H10
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | 2-propenylbenzene | C(=CC)C1=CC=CC=C1 | C9H10
reactant | cyclohexene | C1=CCCCC1 | C6H10
reactant | vinylcyclohexene | C(=C)C1=CCCCC1 | C8H12
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Perhydrophenanthrene | C1CCCC2C3CCCCC3CCC12 | C14H24
